US05280022
To a solution of tetraethyl 3-methylthiopropylaminomethylenebisphosphonate (5.28 g) in acetonitrile (100 ml) was added bromotrimethylsilane (12.39 g) and the mixture was stirred at room temperature for 15 hours. The reaction mixture was diluted with water (3.2 ml) and concentrated under reduced pressure. The solid residue was collected by filtration and recrystallized from water-methanol to give 3-methylthiopropylaminomethylenebisphosphonic acid hemihydrate (1.84 g, 47%). Colorless prisms, m.p. 120°-122° C.

reactant | tetraethyl 3-methylthiopropylaminomethylenebisphosphonate | 5.28 g | CSCCCNC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C13H31NO6P2S
reactant | bromotrimethylsilane | 12.39 g | Br[Si](C)(C)C | C3H9BrSi
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 3.2 ml | O | H2O
product | 3-methylthiopropylaminomethylenebisphosphonic acid hemihydrate | 1.84 g, 47% | O.CSCCCNC(P(O)(O)=O)P(O)(O)=O.CSCCCNC(P(O)(O)=O)P(O)(O)=O | InChI=1S/2C5H15NO6P2S.H2O/c2*1-15-4-2-3-6-5(13(7,8)9)14(10,11)12;/h2*5-6H,2-4H2,1H3,(H2,7,8,9)(H2,10,11,12);1H2
